US08541596B2
N-(4-(Methylthio)benzyl)-N-(pentan-2-yl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-(pentan-2-yl)benzimidazol-5-amine (102 mg; 0.5 mmol; 1 eq.), 4-methylthiobenzylbromide (120 mg; 0.55 mmol; 1.1 eq.) and K2CO3 (76 mg; 0.55 mmol; 1.1 eq.) according to method 6; Yield: 0.038 g (22.4%); MS m/z: 340.3 [M+H]+; 1H-NMR (400 MHz, DMSO d6): δ 0.85-0.89 (m, 3H); 1.12 (d, 3H, 3J=6.6 Hz); 1.33-1.47 (m, 3H); 1.61-1.68 (m, 1H); 2.40 (s, 3H); 3.92-3.94 (m, 1H, CH3—N—CH—C3H7); 4.30 (s, 2H); 6.77-6.79 (m, 2H); 7.13-7.15 (m, 2H); 7.23-7.25 (m, 2H); 7.31-7.33 (m, 1H); 7.90 (s, 1H); 11.90 (br s, 1H); HPLC (METHOD [A]): rt 16.75 min (85.6%)

reactant | N-(pentan-2-yl)benzimidazol-5-amine | 0.5 mmol, 102 mg, 1 eq. | CC(CCC)NC1=CC2=C(N=CN2)C=C1 | C12H17N3
reactant | 4-methylthiobenzylbromide | 0.55 mmol, 120 mg, 1.1 eq. | CSC1=CC=C(CBr)C=C1 | C8H9BrS
reactant | K2CO3 | 0.55 mmol, 76 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(4-(Methylthio)benzyl)-N-(pentan-2-yl)-1H-benzo[d]imidazol-5-amine | CSC1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)C(C)CCC)C=C1 | C20H25N3S
